US04670600
Following the reaction procedure of Example 8 but substituted a molar equivalent amount of anthranilic acid ethyl ester for the anthranilic acid, there is obtained N-isopropylanthranilic acid ethyl ester.

reactant | anthranilic acid ethyl ester | C(C)OC(C=1C(N)=CC=CC1)=O | C9H11NO2
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
product | N-isopropylanthranilic acid ethyl ester | C(C)OC(C=1C(NC(C)C)=CC=CC1)=O | C12H17NO2
